US04126687
A mixture of 5.3 parts of 1-(3-chloropropyl)-1,3-dihydro-5-methyl-3-(1-methylethenyl)-2H-benzimidazol-2-one, 4.3 parts of 1,3-dihydro-1-(4-piperidinyl)-2H-benzimidazol-2-one, 6.4 parts of sodium carbonate and 200 parts of 4-methyl-2-pentanone is stirred and refluxed overnight with water-separator. After cooling, water is added and the layers are separated. The 4-methyl-2-pentanone-phase is dried, filtered and evaporated. The oily residue is purified by column-chromatography over silica gel using a mixture of trichloromethane and methanol (90:10 by volume) as eluent. The pure fractions are collected and the eluent is evaporated, yielding 6 parts (67%) of 1-{3-[4-(2,3-dihydro-2-oxo-1H-benzimidazol-1-yl)-1-piperidinyl]propyl}-1,3-dihydro-5-methyl-3-(1-methylethenyl)-2H-benzimidazol-2-one as an oily residue.

reactant | 1-(3-chloropropyl)-1,3-dihydro-5-methyl-3-(1-methylethenyl)-2H-benzimidazol-2-one | ClCCCN1C(N(C2=C1C=CC(=C2)C)C(=C)C)=O | C14H17ClN2O
reactant | 1,3-dihydro-1-(4-piperidinyl)-2H-benzimidazol-2-one | N1CCC(CC1)N1C(NC2=C1C=CC=C2)=O | C12H15N3O
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | 4-methyl-2-pentanone | CC(CC(C)=O)C | C6H12O
solvent | water | O | H2O
product | 1-{3-[4-(2,3-dihydro-2-oxo-1H-benzimidazol-1-yl)-1-piperidinyl]propyl}-1,3-dihydro-5-methyl-3-(1-methylethenyl)-2H-benzimidazol-2-one | 67% | O=C1NC2=C(N1C1CCN(CC1)CCCN1C(N(C3=C1C=CC(=C3)C)C(=C)C)=O)C=CC=C2 | C26H31N5O2
